US07250427B2
2-{4-[1-(4-Chloro-benzyl)-piperidin-3-ylmethoxy]-phenyl}-1H-benzoimidazole-5-carboxylic acid amide
This compound was prepared using the methods outlined in Example 27, substituting 2-[4-(piperidin-3-ylmethoxy)-phenyl]-1H-benzoimidazole-5-carboxylic acid amide for 2-[4-(2-piperidin-2-yl-ethoxy)-phenyl]-1H-benzoimidazole-5-carboxylic acid amide and p-chlorobenzaldehyde for p-tolualdehyde. HPLC (Method C): Rt=4.57. MS (ESI+): mass calcd. for C27H27ClN4O2, 474.18; m/z found, 475.3 [M+H]+. 1H NMR (500 MHz, CD3OD): 8.13 (s, 1H), 8.00 (d, J=8.8 Hz, 2H), 7.85 (dd, J=1.5, 8.7 Hz, 1H), 7.63 (d, J=8.5 Hz, 1H), 7.43 (s, 4H), 7.10 (d, J=8.8 Hz, 2H), 4.28-4.27 (m, 2H), 4.08-4.04 (m, 1H), 3.95-3.91 (m, 1H), 3.62-3.57 (m, 1H), 3:45-3.40 (m, 1H), 2.91-2.85 (m, 2H), 2.32-2.24(m, 1H), 2.01-1.89 (m, 2H), 1.80-1.69 (m, 1H), 1.46-1.36 (m, 1H).

reactant | 2-[4-(2-piperidin-2-yl-ethoxy)-phenyl]-1H-benzoimidazole-5-carboxylic acid amide | N1C(CCCC1)CCOC1=CC=C(C=C1)C1=NC2=C(N1)C=CC(=C2)C(=O)N | C21H24N4O2
reactant | p-chlorobenzaldehyde | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | p-tolualdehyde | C1(=CC=C(C=C1)C=O)C | C8H8O
product | 2-{4-[1-(4-Chloro-benzyl)-piperidin-3-ylmethoxy]-phenyl}-1H-benzoimidazole-5-carboxylic acid amide | ClC1=CC=C(CN2CC(CCC2)COC2=CC=C(C=C2)C2=NC3=C(N2)C=CC(=C3)C(=O)N)C=C1 | C27H27ClN4O2
